US05786380
2-Methyl-2-propylpentanoic acid (XIV)
The alkylation of the carboxylic acids at position 2 using alkyl halides is very generally possible with the aid of n-butyllithium at elevated temperature (Pfeffer et al., Alpha-anions of carboxylic acids. II. The formation and alkylation of alpha-metalated aliphatic acids. Journal of Organic Chemistry 37, 451-458 (1972). The methylation of the tertiary carbon atom of valproic acid is possible, for example, by deprotonation of the α-hydrogen atom at C-2 using n-butyllithium in hexane at 50° C. and subsequent methylation with methyl iodide at room temperature in a yield of 32%. The other 2-alkylated carboxylic acids can also be prepared in accordance with this method.

reactant | n-butyllithium | C(CCC)[Li]
reactant | valproic acid | C(C(CCC)CCC)(=O)O | C8H16O2
reactant | methyl iodide | CI | CH3I
solvent | hexane | CCCCCC | C6H14
product | 2-Methyl-2-propylpentanoic acid | CC(C(=O)O)(CCC)CCC | C9H18O2
